US08431569B2
Step 2. N-(Dicyclopropylmethyl)-2-methylpropane-2-sulfinamide
To a stirred solution of N-[(1E)-cyclopropylmethylene]-2-methylpropane-2-sulfinamide (35 g, 202 mmol) in DCM (800 mL) was added cyclopropylmagnesium bromide (1 M in THF, 404 mL, 404 mmol) at −78° C. The reaction mixture was allowed to warm to room temperature as the bath did (2 h). The mixture was treated with sat'd NH4Cl solution, and extracted with EtOAc. The organic layer was washed with brine, dried (sodium sulfate), concentrated, and purified by flash chromatography to give the title compound.

reactant | N-[(1E)-cyclopropylmethylene]-2-methylpropane-2-sulfinamide | 202 mmol, 35 g | C1(CC1)\C=N\S(=O)C(C)(C)C | C8H15NOS
reactant | cyclopropylmagnesium bromide | 404 mmol, 1 M, 404 mL | C1(CC1)[Mg]Br
reactant | NH4Cl | [NH4+].[Cl-]
solvent | DCM | 800 mL | C(Cl)Cl | CH2Cl2
product | N-(Dicyclopropylmethyl)-2-methylpropane-2-sulfinamide | C1(CC1)C(NS(=O)C(C)(C)C)C1CC1 | C11H21NOS
